US06344563B1
Synthesis of Tetrahydro-4-(3-bromophenyl)2H-pyran-4-carboxamide
Propan-2-ol (100 ml), tetrahydro-4-(3-bromophenyl)-2H-pyran-4-nitrile (20.0 g, 0.075 mole, 1 eq.), potassium hydroxide (13.74 g, 0.245 mole, 3.26 eq.) were added to a reaction flask set for boiling at reflux under a nitrogen atmosphere, and the reaction mixture was heated with stirring at reflux, about 82° C. for 5-6 hours under nitrogen. After reaction completion, the mixture was cooled (<30° C.) and quenched with water (100 ml). The resultant slurry was filtered and the product residue, washed with water (30 ml), and dried under vacuum at 45-50° C. to yield a white solid. Yield 19.05 g, 89.2% mp 245-247° C.; m/z 285 (m+1); 1H NMR (300 MHz, DMSO) § 7.43 (m, 5H), 7.14 (s, 1H), 3.76 (d, 2H), 3.47 (t, 2H), 2.44 (d, 2H), 1.79 (m, 2H).; IR (drifts) vmax 3363, 3174, 3062, 2973, 2935, 2879, 2828, 1685, 1631, 1588.

reactant | Propan-2-ol | 100 ml | CC(C)O | C3H8O
reactant | tetrahydro-4-(3-bromophenyl)-2H-pyran-4-nitrile | 0.075 mole, 20.0 g, 1 eq. | BrC=1C=C(C=CC1)C1(CCOCC1)C#N | C12H12BrNO
reactant | potassium hydroxide | 0.245 mole, 13.74 g, 3.26 eq. | [OH-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | Tetrahydro-4-(3-bromophenyl)2H-pyran-4-carboxamide | BrC=1C=C(C=CC1)C1(CCOCC1)C(=O)N | C12H14BrNO2
